US07034039B2
To a solution of 4-butoxy-3-[[(tert-butoxycarbonyl)amino]methyl]-2-neopentyl-1-oxo-1,2-dihydro-6-isoquinolinecarboxylic acid (4.60 g, 10 mmol) and N-methylmorpholine (1.3 mL, 12 mmol) in tetrahydrofuran (30 mL) was added ethyl chloroformate (1.2 mL, 12 mmol) at 0° C. and the mixture was stirred at 0° C. for 10 min. To the obtained mixture were added sodium tetrahydroborate (1.13 g, 30 mmol) and methanol (5 mL), and the mixture was stirred at 0° C. for 10 h. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The precipitated crystals were recrystallized from ethyl acetate-diisopropyl ether to give tert-butyl(4-butoxy-6-hydroxymethyl-2-neopentyl-1-oxo-1,2-dihydro-3-isoquinolinyl)methylcarbamate (2.89 g, 64.8%) as crystals.

reactant | 4-butoxy-3-[[(tert-butoxycarbonyl)amino]methyl]-2-neopentyl-1-oxo-1,2-dihydro-6-isoquinolinecarboxylic acid | 10 mmol, 4.60 g | C(CCC)OC1=C(N(C(C2=CC=C(C=C12)C(=O)O)=O)CC(C)(C)C)CNC(=O)OC(C)(C)C | C25H36N2O6
reactant | N-methylmorpholine | 12 mmol, 1.3 mL | CN1CCOCC1 | C5H11NO
reactant | ethyl chloroformate | 12 mmol, 1.2 mL | ClC(=O)OCC | C3H5ClO2
reactant | sodium tetrahydroborate | 30 mmol, 1.13 g | [BH4-].[Na+]
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | methanol | 5 mL | CO | CH4O
product | tert-butyl(4-butoxy-6-hydroxymethyl-2-neopentyl-1-oxo-1,2-dihydro-3-isoquinolinyl)methylcarbamate | 2.89 g, 64.8% | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1OCCCC)CO)=O)CC(C)(C)C)=O | C25H38N2O5
